US07307167B2
9-Acetyl-2-amino-6-iodopurine (1.44 g, 4.72 mmol), bromotrimethylsilane (2.17 g, 14.2 mmol) and isoamyl nitrite (0.83 g, 5.67 mmol) were added to tetrahydrofuran (5 ml), and the mixture was stirred 20-25° C. for 19 hr to give 2-bromo-6-iodopurine.

reactant | 9-Acetyl-2-amino-6-iodopurine | 4.72 mmol, 1.44 g | C(C)(=O)N1C2=NC(=NC(=C2N=C1)I)N | C7H6IN5O
reactant | bromotrimethylsilane | 14.2 mmol, 2.17 g | Br[Si](C)(C)C | C3H9BrSi
reactant | isoamyl nitrite | 5.67 mmol, 0.83 g | N(=O)OCCC(C)C | C5H11NO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-bromo-6-iodopurine | BrC1=NC(=C2NC=NC2=N1)I | C5H2BrIN4
